US08791288B2
7-spiro[4.5]decanol
With stirring under nitrogen atmosphere at room temperature, a mixture of 39.1 g of 7-spiro[4.5]decanone and 100 ml of tetrahydrofuran was added dropwise to a tetrahydrofuran solution of 0.502 mol methylmagnesium chloride (which had been prepared from 12.2 g of metallic magnesium, 500 ml of tetrahydrofuran and chloromethane). The mixture was stirred overnight at room temperature, after which a saturated ammonium chloride aqueous solution was added to stop the reaction. Through ordinary work-up of extraction, washing and drying, and subsequent concentration under reduced pressure, there was obtained 42.3 g (yield 95%) of the target compound, 7-methylspiro[4.5]decan-7-ol. This compound had a purity high enough to use in the subsequent step without further purification.

reactant | 7-spiro[4.5]decanone | 39.1 g | C1CCCC12CC(CCC2)=O | C10H16O
reactant | methylmagnesium chloride | 0.502 mol, 500 ml, 12.2 g | C[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | 7-methylspiro[4.5]decan-7-ol | CC1(CC2(CCCC2)CCC1)O | C11H20O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 7-spiro[4.5]decanol | 42.3 g, yield 95% | C1CCCC12CC(CCC2)O | C10H18O
